US07820664B2
Step D: 4-(4-Bromo-2-chlorophenylamino)-5,6-dichloronicotinic acid:
To a thick suspension of 4-(4-bromo-2-chlorophenylamino)-6-chloronicotinic acid (13.25 g, 36.8 mmol) in 350 ml DMF was added NCS (4.94 g, 37 mmol) and the suspension was stirred at room temperature for 3 days. Since the reaction did not go to completion (NMR control), an additional 1.987 g NCS was added and the mixture was stirred for 18 h, upon which the reaction went to completion. The mixture was poured into a solution of 20 g sodium metabisulfite in H2O (1 l) and the thick suspension was rest for 30 min. It was filtered, and the precipitate was washed with water, then with hexanes and it was dried in oil pump vacuo at 50° C. for 24 hours to obtain the desired compound as a white solid (13.11 g, 90%). 1H-NMR (500 MHz, DMSO-D6): δ=9.90 (s, br, 1H), 8.63 (s, 1H), 7.74 (s, 1H), 7.43-7.42 (dd, 1H), 6.99-6.97 (dd, 1H).

reactant | 4-(4-bromo-2-chlorophenylamino)-6-chloronicotinic acid | 36.8 mmol, 13.25 g | BrC1=CC(=C(C=C1)NC1=CC(=NC=C1C(=O)O)Cl)Cl | C12H7BrCl2N2O2
reactant | NCS | 37 mmol, 4.94 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | NCS | 1.987 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | sodium metabisulfite | 20 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
solvent | H2O | 1 l | O | H2O
product | 4-(4-Bromo-2-chlorophenylamino)-5,6-dichloronicotinic acid | 13.11 g, 90% | BrC1=CC(=C(C=C1)NC1=C(C(=NC=C1C(=O)O)Cl)Cl)Cl | C12H6BrCl3N2O2
